US07268232B2
4-((S)-2-Hydroxymethylpyrrolidin-1-yl)naphthalene-1-carbonitrile (136BG85-3-3)
1-Cyano-4-fluoronaphthalene (86 mg, 0.5 mmol) was transferred to a Pyrex tube and L-prolinol (197 μL, 2.0 mmol) was added followed by toluene (0.5 mL). The tube was capped and the reaction tube was exposed to microwave irradiation (180° C., 5 min). The reaction mixture was concentrated and purified by flash chromatography on silica gel (eluent: 0-3% methanol in dichloromethane). Yield: 23 mg (18%).

reactant | 1-Cyano-4-fluoronaphthalene | 0.5 mmol, 86 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | L-prolinol | 2.0 mmol, 197 μL | N1[C@H](CO)CCC1 | C5H11NO
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-((S)-2-Hydroxymethylpyrrolidin-1-yl)naphthalene-1-carbonitrile | OC[C@H]1N(CCC1)C1=CC=C(C2=CC=CC=C12)C#N | C16H16N2O
